US06051712
A mixture of 200 mg (0.43 mmol) of tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl]-3-naphthalen-2-ylmethoxy-piperidine-1-carboxylate, 263 mg (1.29 mmol) of tributylphosphine and 284 mg (1.29 mmol) of diphenyl sulphide in 1 ml of pyridine was stirred at room temperature for 18 hours. Subsequently, the reaction mixture was evaporated under reduced pressure and the residue, without further working-up, was chromatographed directly on silica gel using methylene chloride as the eluent. The tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(2-phenylsulphanyl-ethyl)-phenyl]-piperidine-1-carboxylate was obtained as a colourless oil in quantitative yield; MS: 554 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl]-3-naphthalen-2-ylmethoxy-piperidine-1-carboxylate | 0.43 mmol, 200 mg | OCCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C29H35NO4
reactant | tributylphosphine | 1.29 mmol, 263 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diphenyl sulphide | 1.29 mmol, 284 mg | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(2-phenylsulphanyl-ethyl)-phenyl]-piperidine-1-carboxylate | quantitative yield | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CCSC1=CC=CC=C1)C(=O)OC(C)(C)C | C35H39NO3S
